US08048540B2
First, 27.5 mL of a hexane solution of n-butyllithium (1.58 mol/L) was dropped in a mixed solution of 6.87 g of 3-bromofluorobenzene and 40 mL of tetrahydrofuran at −78° C. under nitrogen atmosphere, and immediately after that, the obtained solution was stirred at −78° C. for 2 hours. To this solution was added 7.54 g of dibenzo[f,h]quinoxaline at −78° C. in five separate additions. The reaction temperature was increased to room temperature, and then the solution was stirred at room temperature for 12 hours. Water was added to this mixture, and an organic layer was extracted with dichloromethane used as an extraction solvent. The obtained organic layer was dried over anhydrous magnesium sulfate. The dried solution was filtered. After the solvent of this solution was distilled, the resultant substance was recrystallized with ethanol to obtain an objective quinoxaline derivative Hdbq-3FP (light orange power, yield 23%). Synthetic scheme of Step 1 is shown in the following (a-2).

reactant | hexane | 27.5 mL | CCCCCC | C6H14
reactant | n-butyllithium | 1.58 mol/L | C(CCC)[Li]
reactant | 3-bromofluorobenzene | 6.87 g | BrC=1C=C(C=CC1)F | C6H4BrF
reactant | dibenzo[f,h]quinoxaline | 7.54 g | N1=CC=NC2=C3C(=C4C(=C12)C=CC=C4)C=CC=C3 | C16H10N2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | quinoxaline | yield 23% | N1=CC=NC2=CC=CC=C12 | C8H6N2
